Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
?TIA
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ with IDDM, HLD, here with an episode of
L arm numbness/tingling in the setting of prior episodes of b/l
arm numbness upon awakening. 

Pt reports that was in his normal state of health when he awoke
lying on his left side this morning at 6:45AM with L more than R
whole arm numbness/tingling (from shouder down, involving all
fingers). He got up, shook and rubbed his arms, and the 
sensation
slowly faded over ___ minutes and resolved. Then when he was on
the bus on the way to see his endocrinologist, at around 9:20AM,
he had a sudden onset left whole arm numbness/tingling again
lasting ___ minutes before resolution. He was not in any
particular position (ie, head to one side, arm in a particular
position) that he thought could have triggered this episode.  

When he told his endocrinologist about these episodes, an EKG 
was
obtained showing lateral T wave inversions and he was 
transferred
to ED for neuro and cards workup. 

In the ED, he fell asleep with his head tilted to the right and
when waking up, he felt slight numbness/tingling in left hand
affecting digits ___ more. I actually saw him shortly after he
awoke and tested his left hand and there was no decreased
sensation to light touch. 

He has had similar episodes in the past - usually in the context
of waking up in the morning with numbness. Last time in ___ or
___ of this year he awoke with b/l arm numbness and the last
episode prior to this was years ago. He does believe that he has
had only left arm numbness in the past in this context. 

On neurologic review of systems, he has some neck muscle 
soreness
over the last several days. He denies headache, lightheadedness,
or confusion. Denies difficulty with producing or comprehending
speech. Denies loss of vision, blurred vision, diplopia, 
vertigo,
dysarthria, or dysphagia. Denies focal muscle weakness. Denies
bowel or bladder incontinence or retention. Denies difficulty
with gait.

On general review of systems, the pt denies recent fever or
chills. Denies cough, shortness of breath.  Denies chest pain or
tightness.  Denies nausea, vomiting, diarrhea.  

 
Past Medical History:
DM
Asthma
HLD
 
Social History:
___
Family History:
Sister had stroke at age ___. Mother and father had DM. Father 
had
heart disease in ___. 
 
Physical Exam:
Admission Exam:
Vitals: ___, HR 50, 134/92, RR 16, 98% on RA

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. ___ recall at 5
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, small patch of decreased
pinprick in right medial palm, proprioception throughout. No
extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   2
R  3  3    3    3   2
Plantar response was flexor bilaterally. No ankle clonus.
+crossed adductors and pectoral jerks bilaterally.

-Coordination: No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred. 

Discharge Exam: unchanged from above.

 
Pertinent Results:
___ CT Head
1.  No acute intracranial abnormality. 
2.  In the region of the left supraclinoid carotid artery/left 
middle cerebral artery, there appears to be a prominent vascular 
structure, either a torturous course of these arteries or 
possible vascular abnormality.  This can be further evaluated by 
CTA or MRA.

___ MR ___ degenerative change, otherwise unremarkable.

___ MR ___, MRA ___
1. Multiple scattered bilateral periventricular foci of high 
T2/FLAIR signal with a rim of higher signal on FLAIR without 
slow diffusion or enhancement could represent demyelination or 
less likely chronic white matter infarcts. 
2. No hemorrhage, edema, mass, mass effect, or acute infarction. 

3. Unremarkable ___ MRA aside from anatomic variants as 
described above. 
4. Suboptimal neck MRA.

Telemetry - paroxysmal atrial fibrillation

 
Brief Hospital Course:
Mr. ___ is a ___ yo man with DM, HLD, family hx of early 
stroke who presented with two episodes of transient left arm 
numbness. CT head and MRI ___ show small old strokes but no 
acute stroke. Telemetry showed atrial fibrillation, which is 
likely the cause of TIA. He was started on apixaban 5mg BID. LDL 
39, so reduced to atorvastatin 20mg instead of 40mg. HgbA1c 5.7 
(normal). His episodes of bilateral hand/arm numbness upon 
waking are likely due to cervical spondylosis with radiculopathy 
and he was advised to sleep in a soft collar at night.

***Transitional issues:
- echocardiogram as outpatient
- sleep evaluation for OSA as outpatient
- re-check LDL in ___ weeks, since statin dose was reduced
- MRI ___ with contrast as outpatient, since inpatient MRI 
could not rule out demyelination

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 39) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - () N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Glargine 5 Units Bedtime
3. Qvar (beclomethasone dipropionate) 80 mcg/actuation 
inhalation BID 
4. MetFORMIN (Glucophage) ___ mg PO DAILY 
5. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 
6. Atorvastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice daily 
Disp #*180 Tablet Refills:*3 
2.  Atorvastatin 20 mg PO QPM  
3.  Glargine 5 Units Bedtime 
4.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB  
5.  MetFORMIN (Glucophage) ___ mg PO DAILY  
6.  Qvar (beclomethasone dipropionate) 80 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient ischemic attack
Atrial fibrillation
Diabetes mellitus
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted with symptoms of intermittent left arm 
numbness. This was concerning for a TIA. You were also found to 
have newly diagnosed atrial fibrillation, an irregular heart 
beat. You were started on apixaban 5 mg twice daily to prevent 
blood clots and stroke; you must not miss this medication - if 
you do, you are at risk of stroke. Your MRI did not show stroke. 
Your diabetes and high cholesterol are under good control and 
you should continue your medications for this. You should also 
exercise regularly and eat a healthy diet.

You will need to have an echocardiogram (call ___ to 
schedule this) and a sleep evaluation (call ___ to 
schedule) as an outpatient.

You should sleep in a soft collar at night to prevent neck 
soreness and to attempt to prevent bilateral hand/arm numbness 
upon waking.

It was a pleasure taking care of you.

Your ___ team.
 
Followup Instructions:
___